### PR TITLE
[Merged by Bors] - feat: add RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_mem_primesOver

### PR DESCRIPTION
**Pull request by riccardobrasca**
We add `RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_mem_primesOver`, the standard formulation of Kummer's criterion to prove that the ring of integers of a number field is a principal ideal domain.

---
I also improved the file a bit.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 1]
```diff
@@ -40,51 +41,73 @@ variable {K}
...
+  rw [← mem_isPrincipalSubmonoid_iff,
+    ← prod_normalizedFactors_eq_self (nonZeroDivisors.coe_ne_zero I)]
+  refine Submonoid.multiset_prod_mem _ _ (fun J hJ ↦ mem_isPrincipalSubmonoid_iff.mp ?_)
+  by_cases hJ0 : J = 0
+  · simpa [hJ0] using bot_isPrincipal
+  rw [← Subtype.coe_mk J (mem_nonZeroDivisors_of_ne_zero hJ0)]
+  refine h (((mem_normalizedFactors_iff (nonZeroDivisors.coe_ne_zero I)).mp hJ).1) ?_
+  · exact (cast_le.mpr <| le_of_dvd (absNorm_pos_of_nonZeroDivisors I) <|
+      absNorm_dvd_absNorm_of_le (le_of_dvd (UniqueFactorizationMonoid.dvd_of_mem_normalizedFactors
+      hJ))).trans hI
```
Comment (xroblot) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:98]:
```suggestion
  exact (cast_le.mpr <| le_of_dvd (absNorm_pos_of_nonZeroDivisors I) <|
    absNorm_dvd_absNorm_of_le (le_of_dvd (UniqueFactorizationMonoid.dvd_of_mem_normalizedFactors
    hJ))).trans hI
```

**Comment by xroblot** [comment]
LGTM. Thanks! Now, we should be able to prove that more cyclotomic fields are principal :)

**Review by xroblot — APPROVED** [review]

**Comment by riccardobrasca** [comment]
> LGTM. Thanks! Now, we should be able to prove that more cyclotomic fields are principal :)

This is of course my goal. Please don't work on factorization of cyclotomic polynomials over finite fields unless you really need it (it's surely doable in a couple of hours but I gave this to a student)

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 2]
```diff
@@ -40,51 +41,103 @@ variable {K}
...
+  refine Submonoid.multiset_prod_mem _ _ (fun J hJ ↦ mem_isPrincipalSubmonoid_iff.mp ?_)
+  by_cases hJ0 : J = 0
+  · simpa [hJ0] using bot_isPrincipal
+  rw [← Subtype.coe_mk J (mem_nonZeroDivisors_of_ne_zero hJ0)]
+  refine h (((mem_normalizedFactors_iff (nonZeroDivisors.coe_ne_zero I)).mp hJ).1) ?_
+  exact (cast_le.mpr <| le_of_dvd (absNorm_pos_of_nonZeroDivisors I) <|
+    absNorm_dvd_absNorm_of_le (le_of_dvd (UniqueFactorizationMonoid.dvd_of_mem_normalizedFactors
+    hJ))).trans hI
+
+theorem _root_.RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_mem_primesOver
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:100]: Perhaps adding a final `_le` to underly that the bound still plays a role?

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 3]
```diff
@@ -40,51 +41,103 @@ variable {K}
...
+
+theorem _root_.RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_norm_le
+    (h : ∀ ⦃I : (Ideal (𝓞 K))⁰⦄, absNorm (I : Ideal (𝓞 K)) ≤ (4 / π) ^ nrComplexPlaces K *
+      ((finrank ℚ K)! / (finrank ℚ K) ^ (finrank ℚ K) * √|discr K|) →
+      Submodule.IsPrincipal (I : Ideal (𝓞 K))) :
+    IsPrincipalIdealRing (𝓞 K) := by
+  rw [← classNumber_eq_one_iff, classNumber, Fintype.card_eq_one_iff]
+  refine ⟨1, fun C ↦ ?_⟩
+  obtain ⟨I, rfl, hI⟩ := exists_ideal_in_class_of_norm_le C
+  simpa [← ClassGroup.mk0_eq_one_iff] using h hI
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:80]: Not at VSCode now, but can you golf this obtain+simpa to a `simp +contextual`?

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 4]
```diff
@@ -40,51 +41,103 @@ variable {K}
...
+      Submodule.IsPrincipal (I : Ideal (𝓞 K))) :
+    IsPrincipalIdealRing (𝓞 K) := by
+  refine RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_norm_le (fun I hI ↦ ?_)
+  rw [← mem_isPrincipalSubmonoid_iff,
+    ← prod_normalizedFactors_eq_self (nonZeroDivisors.coe_ne_zero I)]
+  refine Submonoid.multiset_prod_mem _ _ (fun J hJ ↦ mem_isPrincipalSubmonoid_iff.mp ?_)
+  by_cases hJ0 : J = 0
+  · simpa [hJ0] using bot_isPrincipal
+  rw [← Subtype.coe_mk J (mem_nonZeroDivisors_of_ne_zero hJ0)]
+  refine h (((mem_normalizedFactors_iff (nonZeroDivisors.coe_ne_zero I)).mp hJ).1) ?_
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:95]: is this `refine... ?_`  working better than simply `apply` without the final metavariable?

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 5]
```diff
@@ -40,51 +41,103 @@ variable {K}
...
+    hJ))).trans hI
+
+theorem _root_.RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_mem_primesOver
+    (h : ∀ ⦃p : ℕ⦄, p.Prime → p ≤ (4 / π) ^ nrComplexPlaces K *
+      ((finrank ℚ K)! / (finrank ℚ K) ^ (finrank ℚ K) * √|discr K|) →
+      ∀ (I : Ideal (𝓞 K)), I ∈ Ideal.primesOver (span {(p : ℤ)}) (𝓞 K) →
+      Submodule.IsPrincipal I) :
+    IsPrincipalIdealRing (𝓞 K) := by
+  refine RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_norm_le_of_isPrime <|
+    fun P hP hPNorm ↦ ?_
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:107]: In most of the proof (except once) you work with `P.1`: can't you do a ` fun <P_a, P_b, hP>?

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 6]
```diff
@@ -40,51 +41,103 @@ variable {K}
...
+  · refine le_trans (cast_le.mpr <| Nat.le_of_dvd ?_ (Int.ofNat_dvd_right.mp ?_)) hPNorm
+    · exact Nat.pos_of_ne_zero <| fun h ↦ nonZeroDivisors.coe_ne_zero P <| absNorm_eq_zero_iff.mp h
+    suffices (Algebra.norm ℤ (algebraMap ℤ (𝓞 K) p)) = p ^ (Module.finrank ℚ K) by
+      obtain ⟨i, -, hi⟩ := (dvd_prime_pow (hpprime (IsPrime.comap _)) _).mp
+        (this ▸ absNorm_dvd_norm_of_mem hle)
+      refine dvd_trans (dvd_pow_self p (fun h ↦ hP.ne_top (absNorm_eq_one_iff.mp ?_))) hi.dvd'
+      simp only [h, pow_zero, associated_one_iff_isUnit] at hi
+      exact ZMod.eq_one_of_isUnit_natCast hi
+    exact Rat.intCast_injective (by simp [Algebra.coe_norm_int, ← Algebra.norm_algebraMap])
+  · convert over_under P.1
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:125]: `convert` really needed? Again, not at my VSCode, but seems a pity in an otherwise neat proof.

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 7]
```diff
@@ -40,51 +41,103 @@ variable {K}
...
+    rcases abs_choice p with h|h <;>
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:126]: `h|h`  or `h | h` ?

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 8]
```diff
@@ -40,51 +41,103 @@ variable {K}
...
-  refine ⟨1, fun C ↦ ?_⟩
-  obtain ⟨I, rfl, hI⟩ := exists_ideal_in_class_of_norm_le C
-  have : Ideal.absNorm I.1 = 1 := by
-    refine le_antisymm (Nat.lt_succ.mp ?_) (Nat.one_le_iff_ne_zero.mpr
-      (Ideal.absNorm_ne_zero_of_nonZeroDivisors I))
-    exact Nat.cast_lt.mp <| lt_of_le_of_lt hI h
-  rw [ClassGroup.mk0_eq_one_iff, Ideal.absNorm_eq_one_iff.mp this]
-  exact top_isPrincipal
+  refine RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_norm_le (fun I hI ↦ ?_)
+  convert top_isPrincipal
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:138]: that we pass from an `exat top_isPrincipal` to a `convert top_isPrincipal` seems a regression.

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 9]
```diff
@@ -40,51 +41,103 @@ variable {K}
...
-      FractionalIdeal.coeIdeal_absNorm, Rat.cast_natCast, mul_div_assoc, mul_assoc, mul_assoc]
-      at h_nm
+      cast_mul, Rat.cast_mul, absNorm_apply, Rat.cast_natCast, Rat.cast_natCast,
+      FractionalIdeal.coe_mk0, FractionalIdeal.coeIdeal_absNorm, Rat.cast_natCast, mul_div_assoc,
+      mul_assoc, mul_assoc] at h_nm
     refine le_of_mul_le_mul_of_pos_left h_nm ?_
-    exact Nat.cast_pos.mpr <| Nat.pos_of_ne_zero <| Ideal.absNorm_ne_zero_of_nonZeroDivisors J
+    exact cast_pos.mpr <| pos_of_ne_zero <| absNorm_ne_zero_of_nonZeroDivisors J
+
+theorem _root_.RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_norm_le
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:72]: Perhaps you need to add here, and at the top of the file, some comments saying that this is Kummer's criterion, possibly pointing at a reference in the literature.

**Review by faenuccio — COMMENTED** [review]
Thanks, I left some comments.

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/ClassNumber.lean:80]: I don't see how. AFAIK `+contextual` takes care of implications, but it does nothing wrt to existential.

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean (hunk 4 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/ClassNumber.lean]: Good idea.

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean (hunk 6 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/ClassNumber.lean]: Fixed.

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean (hunk 8 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/ClassNumber.lean]: I've changed it, but note that in this case `convert` is not (at least in my opinion) code smell. The use case is as when you have `h : a = 0` and your goal is `b = 0`: `convert h` leaves you with `a = b` but you never write `a` nor `b` (that can be very complicated, so a `suffice` may be annoying to write).

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean (hunk 5 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/ClassNumber.lean:107]: Good idea.

**Comment by faenuccio** [comment]
Thanks, LGTM! I do not know if you plan to give it a try to the `contextual` after our Zulip chat, but at any rate

maintainers delegate

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 10]
```diff
@@ -17,6 +18,10 @@ on the class number.
 ## Main definitions
 - `NumberField.classNumber`: the class number of a number field is the (finite)
 cardinality of the class group of its ring of integers
+- `RingOfIntegers.isPrincipalIdealRing_of_isPrincipal_of_mem_primesOver_of_le`: to show that the
+ring of integer of a number field is a PID it is enough to show that all ideals above any (natural)
+prime `p`  smaller than Minkowski bound are principal. This is the standard technique to prove that
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:23]:
```suggestion
prime `p` smaller than Minkowski bound are principal. This is the standard technique to prove that
```

**Comment by PatrickMassot** [comment]
bors d+

**Comment by riccardobrasca** [comment]
bors merge
